US07790709B2
Preparation of (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-[3-(3-morpholin-4-yl-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting (2-ethoxy-3-methoxy-benzyl)methylamine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(3-morpholin-4-yl-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.67 g, 62%) was prepared as an off-white solid: 1H NMR (500 MHz, DMSO-d6) δ 11.16 (br s, 1H), 9.97 (d, J=11 Hz, 1H), 8.40-8.30 (m, 1H), 8.02-7.91 (m, 1H), 7.53-7.46 (m, 1H), 7.24-7.18 (m, 1H), 7.09-6.93 (m, 2H), 6.71-6.63 (m, 1H), 4.79-4.62 (m, 2H), 4.55-4.40 (m, 2H), 4.21-3.85 (m, 2H), 3.80-3.75 (m, 6H), 3.45-3.37 (m, 4H), 3.09-2.86 (m, 8H), 2.08-1.97 (m, 2H), 1.30-1.26 (m, 3H); MS (ESI) m/e 524 (M+H)+.

reactant | (2-ethoxy-3-methoxy-benzyl)methylamine | C(C)OC1=C(CCN)C=CC=C1OC | C11H17NO2
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(3-morpholin-4-yl-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(2-Ethoxy-3-methoxy-benzyl)-N-methyl-3-[3-(3-morpholin-4-yl-propyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.67 g, 62% | Cl.C(C)OC1=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCCN3CCOCC3)=O)N=C2)=O)C)C=CC=C1OC | InChI=1S/C28H37N5O5.ClH/c1-4-38-26-22(7-5-8-24(26)36-3)19-31(2)25(34)10-9-21-17-23-20-33(28(35)30-27(23)29-18-21)12-6-11-32-13-15-37-16-14-32;/h5,7-10,17-18H,4,6,11-16,19-20H2,1-3H3,(H,29,30,35);1H/b10-9+;
